US05965775
EP 460 639 describes a three-stage preparation of 3,5-difluoroaniline. Starting from 5-chloro-2,4,6-trifluoroisophthalic acid, this is decarboxylated to give 2-chloro-1,3,5-trifluorobenzene. By reaction of the 2-chloro-1,3,5-trifluorobenzene with copper and water at 300° C., 1,3,5-trifluorobenzene can be prepared. According to Example 6 of EP 460 639, 1,3,5-tri-fluorobenzene is reacted with methanol saturated with ammonia at 200° C. for 60 hours and 3,5-difluoroaniline is obtained.

reactant | 3,5-difluoroaniline | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | 5-chloro-2,4,6-trifluoroisophthalic acid | ClC=1C(=C(C(=C(C(=O)O)C1F)F)C(=O)O)F | C8H2ClF3O4
product | 2-chloro-1,3,5-trifluorobenzene | ClC1=C(C=C(C=C1F)F)F | C6H2ClF3
